datasets/RMG-dataset.csv
rxn,Ea
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]=[C:7][S:8][H:9]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7](=[S:6])[S:8][H:9],53.5552
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[O:24][H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9].[H:21][O:24][H:25],2.204968
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11](=[S:12])[H:19])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([H:16])([H:17])[H:18])[C:11](=[S:12])[H:19],115.478
[C:0]([C:1]1([H:6])[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10])([H:4])[H:5]>>[C:0]([C:1]1[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10])([H:4])([H:5])[H:6],192.882
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][C:30]([H:31])([H:32])[H:33],47.672496
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([O:8][O:9])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:9][O:8][C:7]([H:10])([H:11])[H:12],40.3036352
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([S:1][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12])([H:2])([H:3])[H:4].[H:5],66.944
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([C:25]([H:28])([H:29])[H:30])([H:26])[H:27])[H:12],24.3509
[C:0]([C:1](=[C:2]([H:11])[H:12])[C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][O:8][H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1](=[C:2]([H:11])[H:12])[C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7]1.[O:8][H:15],78.3663
[C:0]([C:1]([O:2][H:9])([C:3]([O:4][O:5][H:12])([H:10])[H:11])[H:8])([H:6])[H:7].[O:13][O:14]>>[C:0]([C:1]([O:2][H:9])([C:3]([O:4][O:5][H:12])([H:10])[H:11])[H:8])([H:6])([H:7])[O:13][O:14],-4.48934832
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]2([H:15])[C:6]([H:16])([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20]>>[C:0]1([H:10])=[C:9]([H:20])[C:8]([H:19])=[C:7]([H:18])[C:6]([H:16])([H:17])[C:5]([H:15])[C:4]([H:14])=[C:3]([H:13])[C:2]([H:12])=[C:1]1[H:11],152.2976
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:17])[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:12])([H:10])[H:11],169.285
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([O:4])([H:12])[H:13])([H:10])[H:11])([O:5][H:14])[H:9])([H:6])([H:7])[H:8],111.294
[C:0](=[N:1][H:4])([H:2])[H:3].[N:5]([H:6])[H:7]>>[C:0](=[N:1])([H:2])[H:3].[H:4][N:5]([H:6])[H:7],18.577
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([C:10]=[S:11])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])=[S:11],49.7896
[C:0]([C:1](=[C:2]=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])=[C:2]=[C:3]([H:9])[C:4]1([C:5]([H:11])[H:12])[H:10],167.36
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11](=[S:12])[H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:13])([H:14])[H:15])([C:11](=[S:12])[H:17])[H:16],107.947
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([C:20]([H:23])([H:24])[H:25])[H:22])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:21])([C:20]([H:23])([H:24])[H:25])[H:22])[H:7],43.8065
